US04996318
EXAMPLE 33 Pregna-1,4-diene-3,11,20-trione
11α-Hydroxypregna-1,4-diene-3,20-dione (120 mmol) in acetone (950 ml) is treated with Jones reagent (38.7 ml) at 0°. Following work-up the title compound is obtained.

reactant | 11α-Hydroxypregna-1,4-diene-3,20-dione | 120 mmol | O[C@H]1[C@@H]2[C@]3(C=CC(C=C3CC[C@H]2[C@@H]2CC[C@H](C(C)=O)[C@]2(C1)C)=O)C | C21H28O3
reactant | Jones reagent | 38.7 ml | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
solvent | acetone | 950 ml | CC(=O)C | C3H6O
product | Pregna-1,4-diene-3,11,20-trione | CC([C@H]1CC[C@H]2[C@@H]3CCC4=CC(C=C[C@]4(C)[C@H]3C(C[C@]12C)=O)=O)=O | C21H26O3
